simulator lang=spectre
global 0

ahdl_include "./dut/dwa_ptr_gen.va"
ahdl_include "./dut/v2b_4b.va"

Vclk (clk_i 0) vsource type=pulse val0=0 val1=0.9 period=8n delay=1.5n rise=0.2n fall=0.2n width=3.6n
Vrst_n (rst_ni 0) vsource type=pwl wave=[0 0 6n 0 6.2n 0.9 94n 0.9]
Vvin (vin_node 0) vsource type=pwl \
wave=[0 6  11.5n 6  11.6n 9  19.5n 9  19.6n 4  27.5n 4  27.6n 11  35.5n 11 \
35.6n 7  43.5n 7  43.6n 12  51.5n 12  51.6n 5  59.5n 5  59.6n 10 \
67.5n 10  67.6n 3  75.5n 3  75.6n 8  94n 8]
IV2B (clk_i vin_node code_3 code_2 code_1 code_0) v2b_4b vdd=0.9
IDUT (clk_i rst_ni \
code_3 code_2 code_1 code_0 \
cell_en_15 cell_en_14 cell_en_13 cell_en_12 cell_en_11 cell_en_10 cell_en_9 cell_en_8 \
cell_en_7 cell_en_6 cell_en_5 cell_en_4 cell_en_3 cell_en_2 cell_en_1 cell_en_0 \
ptr_15 ptr_14 ptr_13 ptr_12 ptr_11 ptr_10 ptr_9 ptr_8 \
ptr_7 ptr_6 ptr_5 ptr_4 ptr_3 ptr_2 ptr_1 ptr_0) \
dwa_ptr_gen vdd=0.9 vth=0.45 ptr_init=0

simulatorOptions options evas_profile=balanced

tran tran stop=92n maxstep=200p
save clk_i rst_ni code_3 code_2 code_1 code_0 cell_en_15 cell_en_14 cell_en_13 cell_en_12 cell_en_11 cell_en_10 cell_en_9 cell_en_8 cell_en_7 cell_en_6 cell_en_5 cell_en_4 cell_en_3 cell_en_2 cell_en_1 cell_en_0 ptr_15 ptr_14 ptr_13 ptr_12 ptr_11 ptr_10 ptr_9 ptr_8 ptr_7 ptr_6 ptr_5 ptr_4 ptr_3 ptr_2 ptr_1 ptr_0 vin_node
