simulator lang=spectre
global 0

ahdl_include "./dut/four_channel_edge_sampler.va"

Vclk (clk 0) vsource type=pwl wave=[0 0 2n 0 2.1n 1.2 3n 1.2 3.1n 0 12n 0 12.1n 1.2 13n 1.2 13.1n 0 22n 0 22.1n 1.2 23n 1.2 23.1n 0 32n 0 32.1n 1.2 33n 1.2 33.1n 0 38n 0]
V0 (vin0 0) vsource type=pwl wave=[0 0.1 8n 0.1 8.1n 0.2 18n 0.2 18.1n 0.3 28n 0.3 28.1n 0.4 38n 0.4]
V1 (vin1 0) vsource type=pwl wave=[0 0.2 8n 0.2 8.1n 0.4 18n 0.4 18.1n 0.6 28n 0.6 28.1n 0.8 38n 0.8]
V2 (vin2 0) vsource type=pwl wave=[0 0.3 8n 0.3 8.1n 0.6 18n 0.6 18.1n 0.9 28n 0.9 28.1n 0.1 38n 0.1]
V3 (vin3 0) vsource type=pwl wave=[0 0.4 8n 0.4 8.1n 0.8 18n 0.8 18.1n 0.2 28n 0.2 28.1n 0.6 38n 0.6]
XDUT (clk vin0 vin1 vin2 vin3 vout0 vout1 vout2 vout3) four_channel_edge_sampler

simulatorOptions options evas_profile=balanced

tran tran stop=36n maxstep=20p
save clk vin0 vin1 vin2 vin3 vout0 vout1 vout2 vout3
